US04180662
Preparation of 6-chloro-4-hydroxy-2-methyl-3-(2-thiazolylcarbamoyl)-2H-thieno[3,2-e]-1,2-thiazine-1,1-dioxide
0.4 g. of 6-chloro-4-hydroxy-2-methyl-3-methoxycarbonyl-2H-thieno[3,2-e]1,2-thiazine-1,1-dioxide is heated under reflux for 16 hours with 0.19 g. of 2-aminothiazole in 45 ml. of absolute xylene, while passing a stream of nitrogen through the mixture. The reaction mixture is cooled to room temperature, and the product is crystallized out by scratching and then kept overnight in the cold. The precipitate crystals are removed by filtration under suction, recrystallized from ethanol, and 6-chloro-4-hydroxy-2-methyl-3-(2-thiazolecarbamoyl)-2H-thieno[3,2-e]1,2-thiazine-1,1-dioxide having a melting point of 136°-138° (with decomposition) is obtained.

reactant | 6-chloro-4-hydroxy-2-methyl-3-methoxycarbonyl-2H-thieno[3,2-e]1,2-thiazine-1,1-dioxide | ClC1=CC=2C(=C(N(S(C2S1)(=O)=O)C)C(=O)OC)O | C9H8ClNO5S2
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 6-chloro-4-hydroxy-2-methyl-3-(2-thiazolylcarbamoyl)-2H-thieno[3,2-e]-1,2-thiazine-1,1-dioxide | ClC1=CC=2C(=C(N(S(C2S1)(=O)=O)C)C(NC=1SC=CN1)=O)O | C11H8ClN3O4S3
